US08859561B2
Preparation of 11-(2-(pyridin-4-yl)-2-(hydroxy)ethyl)-7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine [Compound No. 46]
To a stirred solution of 2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-cyclopenta[b]fluorene (1 g, 4.6 mmol) in DMF (20 mL) were portion wise added NaH (60%, 0.552 g, 13.8 mmol) and 4-(oxiran-2-yl)pyridine (0.709 g, 5.6 mmol). The reaction mixture was stirred at RT overnight. The progress of reaction mass was monitored by LCMS. The reaction mixture was quenched with ice cold water (300 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layer was washed with water (10×100 mL) followed by brine (2×100 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography followed by reverse phase HPLC to yield the title compound.

reactant | 2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-cyclopenta[b]fluorene | 4.6 mmol, 1 g | C1CCN2C1CC=1NC3=NC=CC=C3C1C2 | C13H15N3
reactant | NaH | 13.8 mmol, 0.552 g | [H-].[Na+]
reactant | 4-(oxiran-2-yl)pyridine | 5.6 mmol, 0.709 g | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 11-(2-(pyridin-4-yl)-2-(hydroxy)ethyl)-7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine | N1=CC=C(C=C1)C(CN1C2=C(C=3CN4CCCC4CC31)C=CC=N2)O | C20H22N4O
